US05859051
Step D: Preparation of 7-(3-bromopropyl)oxy-3-ethyl-8-propylcoumarin
To a solution of 3-ethyl-7-hydroxy-8-propylcoumarin (37 mg, 0.1593 mmol) and potassium carbonate (44 mg, 0.3186 mmol) in 0.7 mL DMF was added 1,3-dibromopropane (161 mg, 0.08 mL). The mixture was stirred at ambient temperature for 2 hours and diluted with ethyl acetate and saturated (aqueous) ammonium chloride. After the layers were separated, the aqueous phase was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered, concentrated in vacuo, and the crude residue was purified by flash chromatography on silica gel (gradient elution: 5% then 10% then 20% ethyl acetate/hexane). This provided the title compound.

reactant | 3-ethyl-7-hydroxy-8-propylcoumarin | 0.1593 mmol, 37 mg | C(C)C=1C(OC2=C(C(=CC=C2C1)O)CCC)=O | C14H16O3
reactant | potassium carbonate | 0.3186 mmol, 44 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 0.08 mL, 161 mg | BrCCCBr | C3H6Br2
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonium chloride | [Cl-].[NH4+]
product | 7-(3-bromopropyl)oxy-3-ethyl-8-propylcoumarin | BrCCCOC1=CC=C2C=C(C(OC2=C1CCC)=O)CC | C17H21BrO3
